US07648989B2
Preparation of (2-chloro-5-trifluoromethyl-pyridin-4-yl)-acetic acid tert-butyl ester
Under an atmosphere of dry argon, a mixture of palladium dibenzylideneacetone (Pd2(dba)3, 22 mg, 0.02 mmol), di-tert-butylphosphino pentaphenylferrocene (17 mg, 0.02 mmol), 2-chloro-4-iodo-5-trifluoromethyl-pyridine (1.50 g, 4.88 mmol) and the Reformatzky reagent prepared from bromo-acetic acid tert-butyl ester and activated zinc metal (1.40 g, 5.37 mmol) is suspended in dry and degassed THF (20 ml). The mixture is heated to 60° C. After 45 minutes and after 90 minutes, additional batches of palladium dibenzylideneacetone (Pd2(dba)3, 22 mg, 0.02 mmol), di-tert-butylphosphino pentaphenylferrocene (17 mg, 0.02 mmol), and of the Reformatzky reagent (1.40 g, 5.37 mmol) are added. After a total of 2.5 h at 60° C., TLC analysis indicated complete conversion of starting materials. Upon cooling to RT, the reaction mixture is diluted with equal amounts of EtOAc and H2O, and filtered through a tight plug of cotton. The organic layer is separated, washed with brine twice, dried over Na2SO4, and the solvent is evaporated. The residue is purified by FCC (hexanes/EtOAc, gradient from 100:0 to 97:3) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.44 (s, 9H), 3.71 (s, 2H), 7.39 (s, 1H), 8.63 (s, 1H). ES+−MS: 294.1, 296.2 (Cl) [M+H]+.

reactant | 2-chloro-4-iodo-5-trifluoromethyl-pyridine | 4.88 mmol, 1.50 g | ClC1=NC=C(C(=C1)I)C(F)(F)F | C6H2ClF3IN
reactant | bromo-acetic acid tert-butyl ester | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | palladium dibenzylideneacetone | 0.02 mmol, 22 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
catalyst | di-tert-butylphosphino pentaphenylferrocene | 0.02 mmol, 17 mg | C(C)(C)(C)P(C(C)(C)C)[C-]1C=CC=C1.C1(=CC=CC=C1)C1=C(C(=C([C-]1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | zinc | 5.37 mmol, 1.40 g | [Zn] | Zn
catalyst | palladium dibenzylideneacetone | 0.02 mmol, 22 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
catalyst | di-tert-butylphosphino pentaphenylferrocene | 0.02 mmol, 17 mg | C(C)(C)(C)P(C(C)(C)C)[C-]1C=CC=C1.C1(=CC=CC=C1)C1=C(C(=C([C-]1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | (2-chloro-5-trifluoromethyl-pyridin-4-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=NC=C1C(F)(F)F)Cl)=O | C12H13ClF3NO2
